US04904690
2-(1-Bromocyclohexyl]-8-cyanomethyl-4-oxo-4H-[1]-benzopyran
2-(1-Bromocyclohexyl)-8-bromomethyl-4-oxo-4H-[1]-benzopyran (11.2 g, 0.028 mole) was dissolved in dimethylformamide (200 ml) and to the solution was added NaCN (1.5 g, 0.0305 mole) with stirring at 10° C. The mixture was stirred for 30 minutes. Water was added to the reaction mixture and crystals precipitated were filtered off. The crude crystals were purified by silica gel chromatography (eluent: chloroform-hexane (10:1)) to obtain the title compound (4.08 g), yield 44.7 %. The product was recrystallized from ethyl acetate to obtain prisms, m.p. 144°-145° C.

reactant | 2-(1-Bromocyclohexyl)-8-bromomethyl-4-oxo-4H-[1]-benzopyran | 0.028 mole, 11.2 g | BrC1(CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CBr | C16H16Br2O2
reactant | NaCN | 0.0305 mole, 1.5 g | [C-]#N.[Na+]
reactant | Water | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(1-Bromocyclohexyl]-8-cyanomethyl-4-oxo-4H-[1]-benzopyran | 4.08 g, yield 44.7 % | BrC1(CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC#N | C17H16BrNO2
